** sch_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/OpenSUSI-TR10/2026/RISE-A/opamp_r2r_audio/sasaki/opamp_r2r_diff_sasaki.sch
.subckt opamp_r2r_diff_sasaki VDD BPO INP_N INM_N BPI INM INP BNI INM_P INP_P BNO VSS
*.PININFO VDD:B VSS:B INP:I INM:I INP_N:O INM_N:O INM_P:O INP_P:O BPO:I BPI:I BNI:I BNO:I
MMINPP1 net1 BPO VDD VDD PMOS w=7.5u l=5u m=8
MMINPP2 net2 BPI net1 VDD PMOS w=7.5u l=5u m=8
MMINPP3 INP_P INP net2 VDD PMOS w=7.5u l=5u m=8
MMINMP1 net3 BPO VDD VDD PMOS w=7.5u l=5u m=8
MMINMP2 net2 BPI net3 VDD PMOS w=7.5u l=5u m=8
MMINMP3 INM_P INM net2 VDD PMOS w=7.5u l=5u m=8
MMINPN2 net4 BNI net5 VSS NMOS w=7.5u l=5u m=4
MMINPN1 net5 BNO VSS VSS NMOS w=7.5u l=5u m=4
MMINPN3 INP_N INP net4 VSS NMOS w=7.5u l=5u m=4
MMINMN2 net4 BNI net6 VSS NMOS w=7.5u l=5u m=4
MMINMN1 net6 BNO VSS VSS NMOS w=7.5u l=5u m=4
MMINMN3 INM_N INM net4 VSS NMOS w=7.5u l=5u m=4
.ends
